US08236976B2
Preparation of (S)-1-(4-Trifluoromethyl-phenyl)-hept-2-en-1-ol (6)
The product was prepared by General procedure S using 98 mg (0.55 mmol) Cy2BH, 64 μL (0.55 mmol) 1-hexyne, 0.55 mL (1.1 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, and 68 μL (0.50 mmol) p-trifluoromethylbenzaldehyde. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound as a colorless oily solid in 94% yield (121 mg, 0.47 mmol). [α]D20=+69.3 (c=0.88, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz): δ 0.88 (t, 3H, J=7.1 Hz), 1.25-1.39 (m, 4H), 1.61 (br s, 1H), 2.05 (dt, 2H, J=6.9, 6.7 Hz), 5.19 (d, 1H, J=7.0 Hz), 5.59 (dd, 1H, JT=15.3, 7.1 Hz), 5.77 (dt, 1H, J=15.3, 6.7 Hz), 7.46 (d, 2H, J=8.0 Hz), and 7.58 (d, 2H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 22.2, 31.3, 31.8, 74.7, 125.3, 125.4, 126.4, 129.4, 129.7, 131.7, 133.9, and 147.2 ppm; IR (neat): 3370, 3037, 2959, 2930, 2859, 2353, 1666, 1620, 1415, 1327, and 1165 cm−1; HRMS-ESI m/z 258.1239 [M+; calcd for C14H17F3O: 258.1232].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.55 mmol, 64 μL | C#CCCCC | C6H10
reactant | Et2Zn | 1.1 mmol, 2.0 M, 0.55 mL | [Zn](CC)CC
reactant | p-trifluoromethylbenzaldehyde | 0.50 mmol, 68 μL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
product | (S)-1-(4-Trifluoromethyl-phenyl)-hept-2-en-1-ol | 94% yield | FC(C1=CC=C(C=C1)[C@H](C=CCCCC)O)(F)F | C14H17F3O
